US08334287B2
f) 4,5-dichloro-2-ethyl-2H-pyridazin-3-one
To a suspension of 4.00 g (24.2 mmol) of 4,5-dichloro-2H-pyridazin-3-one (CAS: [932-22-9]) and 6.70 g (48.5 mmol) of potassium carbonate in 40 ml of acetone were added 3.92 ml (7.56 g, 48.5 mmol, 2 eq.) of ethyl iodide. The suspension was stirred for 8 h at 55° C. and allowed to cool to room temperature. The reaction was filtered and the solids were washed twice with acetone. The filtrate was concentrated in vaccuo, taken up in ethyl acetate and the precipitated salts were filtered off. The filtrate was concentrated in vaccuo, taken up in methylene chloride and purified by flash chromatography (SiO2, heptane:ethyl acetate 80:20 v/v) to yield the title compound as a light yellow crystalline solid.

reactant | 4,5-dichloro-2H-pyridazin-3-one | 24.2 mmol, 4.00 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | potassium carbonate | 48.5 mmol, 6.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 48.5 mmol, 3.92 ml, 7.56 g, 2 eq. | C(C)I | C2H5I
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4,5-dichloro-2-ethyl-2H-pyridazin-3-one | ClC=1C(N(N=CC1Cl)CC)=O | C6H6Cl2N2O
